US07354932B2
To a solution of 2-{4-[[5-(4-Fluoro-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-ylmethyl]-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]—butyl}-isoindole-1,3-dione (0.3125 g, 0.48 mmol) in ethanol (5 mL) was added hydrazine monohydrate (0.12 mL), and the reaction mixture was stirred at room temperature for 17 hours. The reaction mixture was concentrated, and purified via column chromatography on silica gel (20:1:1 CH2Cl2-MeOH—NH4OH) to yield 0.1838 g (73%) of N-[5-(4-Fluoro-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-ylmethyl]-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine. 1H NMR (CDCl3) δ 0.85 (t, 2H, J=8.1 Hz), 1.25-1.34 (m, 7H), 1.61-1.72 (m, 1H), 1.89-2.05 (m, 4H), 2.54-2.82 (m, 8H), 3.35-3.47 (m, 3H), 3.93 (s, 2H), 4.06 (t, 1H, J=8.1 Hz), 5.53 (d, 2H, J=10.5 Hz), 5.78 (d, 2H, J=10.8 Hz), 6.99-7.04 (m, 3H), 7.15 (s, 1H), 7.31 (d, 1H, J=7.5 Hz), 7.66-7.70 (m, 2H), 8.47 (d, 1H, J=3.6 Hz).

reactant | 2-{4-[[5-(4-Fluoro-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-ylmethyl]-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]—butyl}-isoindole-1,3-dione | 0.48 mmol, 0.3125 g | FC1=CC=C(C=C1)C1=CN=C(N1COCC[Si](C)(C)C)CN(CCCCN1C(C2=CC=CC=C2C1=O)=O)C1CCCC=2C=CC=NC12 | C37H44FN5O3Si
reactant | hydrazine monohydrate | 0.12 mL | O.NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-[5-(4-Fluoro-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-ylmethyl]-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine | 0.1838 g, 73% | FC1=CC=C(C=C1)C1=CN=C(N1COCC[Si](C)(C)C)CN(CCCCN)C1CCCC=2C=CC=NC12 | C29H42FN5OSi
